US06225020B1
Synthesis of poly(t-butyl maleimide/t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate/2-hydroxyethyl 5-norbornene-2-carboxylate) polymer (Formula 7)
t-butyl maleimide (1 mol.), t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate (0.5 mol.), and 2-hydroxyethyl 5-norbornene-2-carboxylate (0.5 mol.) were dissolved in 50 g to 300 g of tetrahydrofuran (THF), 2 g to 15 g of 2,2′-azobisisobutyronitrile (AIBN) were added thereto, then the resultant solution was reacted at a temperature of 60° C. to 70° C. in a nitrogen atmosphere for 10 hours. After a high molecular weight was achieved by the reaction, the resultant product was precipitated in an ethyl ether or hexane solvent. The gathered precipitate was dried, and the desired poly(t-butyl maleimide/t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate/2-hydroxyethyl 5-norbornene-2-carboxylate) polymer was obtained at a yield of about 75%.

reactant | t-butyl maleimide | 1 mol | C(C)(C)(C)C=1C(=O)NC(C1)=O | C8H11NO2
reactant | t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate | 0.5 mol | C12C(CC(C=C1)CC2)C(=O)OC(C)(C)C | C13H20O2
reactant | 2-hydroxyethyl 5-norbornene-2-carboxylate | 0.5 mol | C12C(CC(C=C1)C2)C(=O)OCCO | C10H14O3
reactant | 2,2′-azobisisobutyronitrile | 2 g to 15 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 50 g to 300 g | O1CCCC1 | C4H8O
product | t-butyl maleimide t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate 2-hydroxyethyl 5-norbornene-2-carboxylate | yield of about 75% | C(C)(C)(C)C=1C(=O)NC(C1)=O.C12C(CC(C=C1)CC2)C(=O)OC(C)(C)C.C12C(CC(C=C1)C2)C(=O)OCCO | InChI=1S/C13H20O2.C10H14O3.C8H11NO2/c1-13(2,3)15-12(14)11-8-9-4-6-10(11)7-5-9;11-3-4-13-10(12)9-6-7-1-2-8(9)5-7;1-8(2,3)5-4-6(10)9-7(5)11/h4,6,9-11H,5,7-8H2,1-3H3;1-2,7-9,11H,3-6H2;4H,1-3H3,(H,9,10,11)
